US09278944B2
Ethyl 3-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate was treated with aqueous sodium hydroxide solution and N,O-dimethylhydroxyamine hydrochloride in the similar manner to Reference Example 105(7) to give 3-ethyl-N-methoxy-1-(3-methoxypropyl)-N-methyl-1H-pyrrolo[3,2-c]pyridine-6-carboxamide [REx(106-3)] as a pale yellow oil.

reactant | Ethyl 3-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridine-6-carboxylate | C(C)C1=CN(C2=C1C=NC(=C2)C(=O)OCC)CCCOC | C16H22N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,O-dimethylhydroxyamine hydrochloride | Cl.CNOC
product | 3-ethyl-N-methoxy-1-(3-methoxypropyl)-N-methyl-1H-pyrrolo[3,2-c]pyridine-6-carboxamide | C(C)C1=CN(C2=C1C=NC(=C2)C(=O)N(C)OC)CCCOC | C16H23N3O3
